US07732444B2
Intermediate 47: 4-(4-ethoxy-phenyl)-2-chloro-pyrimidine:
2,4 dichloropyrimidine was coupled with 3-ethoxyphenylboronic acid following procedure A. LC-MS showed the product had the expected M+H+ of 235.

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-ethoxyphenylboronic acid | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 4-(4-ethoxy-phenyl)-2-chloro-pyrimidine | C(C)OC1=CC=C(C=C1)C1=NC(=NC=C1)Cl | C12H11ClN2O
